US08242102B2
1.5 8-(Azetidin-3-yl)-3-(phenylsulfonyl)quinoline hydrochloride
A solution of tert-butyl 3-(3-(phenylsulfonyl)quinolin-8-yl)azetidine-1-carboxylate (54 mg, 0.13 mmol) in CH2Cl2 (3 ml) was treated with hydrochloric acid (1M in ether, 0.3 ml) at 0° C. and then stirred at room temperature for 16 h. After concentration, the product was washed with EtOAc and dried in vacuo to give the title compound (45 mg, 98%) as a white solid.

reactant | tert-butyl 3-(3-(phenylsulfonyl)quinolin-8-yl)azetidine-1-carboxylate | 0.13 mmol, 54 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)C1CN(C1)C(=O)OC(C)(C)C | C23H24N2O4S
reactant | hydrochloric acid | 1M, 0.3 ml | Cl | ClH
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 8-(Azetidin-3-yl)-3-(phenylsulfonyl)quinoline hydrochloride | 45 mg, 98% | Cl.N1CC(C1)C=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C18H16N2O2S.ClH/c21-23(22,15-6-2-1-3-7-15)16-9-13-5-4-8-17(14-10-19-11-14)18(13)20-12-16;/h1-9,12,14,19H,10-11H2;1H
